US03943141
c. 1(2-Dimethylaminoethyl)-1,4-dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxyamide
1(2-Dimethylaminoethyl)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydrochloride (4.6 g) and N,N'-carbonyldiimidazole (2.75 g) in dimethylformamide (40 ml) were stirred and heated to 90° for 2 hours. 5-Amino-1H-tetrazole (1.45 g) was added and the mixture was heated to 40° and stirred for 36 hours. The solid was collected, m.p. 305°-307° (d). (30%).

reactant | 1(2-Dimethylaminoethyl)-1,4-dihydro-7-methyl-4-oxo-1,8-naphthyridine-3-carboxylic acid, hydrochloride | 4.6 g | Cl.CN(CCN1C=C(C(C2=CC=C(N=C12)C)=O)C(=O)O)C
reactant | 5-Amino-1H-tetrazole | 1.45 g | NC1=NN=NN1 | CH3N5
reactant | dimethylformamide | 40 ml | CN(C=O)C | C3H7NO
product | 1(2-Dimethylaminoethyl)-1,4-dihydro-7-methyl-4-oxo-N(1H-tetrazol-5-yl)-1,8-naphthyridine-3-carboxyamide | CN(CCN1C=C(C(C2=CC=C(N=C12)C)=O)CC(=O)NC1=NN=NN1)C | C16H20N8O2
